US09061030B2
To a stirring suspension of 4-(3-(4-bromopyridin-2-yl)-1-(2-fluorobenzyl)-1H-1,2,4-triazol-5-yl)oxazole (I-54, 1 eq) and copper(I) oxide (1 eq) in ethylene glycol-dioxane (approx. 4:1) in a sealed tube was added morpholine (30 eq). The resultant reaction mixture was heated at 100° C. for 12 hr and then cooled to room temperature, treated with brine and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, concentrated and purified using SiO2 chromatography (methylene chloride/acetonitrile/methanol) to afford 4-(2-(1-(2-fluorobenzyl)-5-(oxazol-4-yl)-1H-1,2,4-triazol-3-yl)pyridin-4-yl)morpholine in 10.3% yield.

reactant | 4-(3-(4-bromopyridin-2-yl)-1-(2-fluorobenzyl)-1H-1,2,4-triazol-5-yl)oxazole | 1 eq | BrC1=CC(=NC=C1)C1=NN(C(=N1)C=1N=COC1)CC1=C(C=CC=C1)F | C17H11BrFN5O
reactant | morpholine | 30 eq | N1CCOCC1 | C4H9NO
solvent | ethylene glycol dioxane | C(CO)O.O1CCOCC1
solvent | brine | [Cl-].[Na+].O
catalyst | copper(I) oxide | 1 eq | [Cu-]=O
product | 4-(2-(1-(2-fluorobenzyl)-5-(oxazol-4-yl)-1H-1,2,4-triazol-3-yl)pyridin-4-yl)morpholine | 10.3% yield | FC1=C(CN2N=C(N=C2C=2N=COC2)C2=NC=CC(=C2)N2CCOCC2)C=CC=C1 | C21H19FN6O2
